US09034880B2
Preparation of 2,5-dimethyl-1-phenethyl-1H-indole-3-carboxylic acid
A mixture of ethyl 2,5-dimethyl-1-phenethyl-1H-indole-3-carboxylate (500 mg) and NaOH (500 mg) in ethanol (15 mL) was heated at 100° C. for 3 h at which point the reaction was found complete by TLC and LC-MS. The reaction mixture was acidified to pH 4-5 by adding ethanolic HCl and evaporated under reduced pressure. The residue (1 g), that also contained NaCl generated during NaOH neutralization, was carried forward to next reaction without any purification.

reactant | ethyl 2,5-dimethyl-1-phenethyl-1H-indole-3-carboxylate | 500 mg | CC=1N(C2=CC=C(C=C2C1C(=O)OCC)C)CCC1=CC=CC=C1 | C21H23NO2
reactant | NaOH | 500 mg | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | 2,5-dimethyl-1-phenethyl-1H-indole-3-carboxylic acid | CC=1N(C2=CC=C(C=C2C1C(=O)O)C)CCC1=CC=CC=C1 | C19H19NO2
